US04080329
2-Aminopyridine-1-Oxide Hydrochloride
The solution of 2-acetamidopyridine was chilled in an ice bath to 10°-15° C and treated with 118 g. of commercial 40% peracetic acid which was slowly added over a 40-minute period with ice-cooling and stirring. During the course of the addition the temperature was between 15°-25° C. After 1 hour stirring, with little cooling (temperature 20°-30° C), the turbid solution was heated for 3.5 hours at 70° C with stirring. To the clear hot solution were added 85 g. 37.5% hydrochloric acid and 37 g. water, and to the resulting cloudy solution was added 3.5 g. 37% formaldehyde solution to destroy any unreacted excess of peroxide compounds. The mixture was stirred and heated 2.5 hours at 80°-82° C. After cooling to room temperature, 40 g. xylene was added and the cloudy solution was evaporated, under vacuum, in a rotary evaporator, until the residue was solid. The resulting moist crystals were dried at 50°-60° C under vacuum, to give 116 g. of 2-aminopyridine-1-oxide hydrochloride, which on recrystallization from 1:1 ethanoltoluene mixture, weighed 98.8 g. The resulting colorless crystals gave a m.p. of 155°-156° C.

reactant | 2-acetamidopyridine | C(C)(=O)NC1=NC=CC=C1 | C7H8N2O
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-Aminopyridine-1-Oxide Hydrochloride | Cl.NC1=[N+](C=CC=C1)[O-] | InChI=1S/C5H6N2O.ClH/c6-5-3-1-2-4-7(5)8;/h1-4H,6H2;1H
